US05447954
±(3R*,5R*) 3-(Carboxymethyl)-5-[6-(2,4-dichlorophenyl)hexyl]tetrahydrofuran-2-one and its diastereoisomer
Aqueous NaOH (1M, 1.43 ml, 1.43 mmol) was added slowly to a stirred solution of the diastereoisomers of ±3-(carbomethoxymethyl)-5-[6-(2,4-dichlorophenyl)hexyl]tetrahydrofuran-2-one (185 mg, 0. 478 mmol) in methanol (5 ml) at 0° C. After 5 min at 0° C., the mixture was stirred at room temperature for 6 h, then poured into aqueous HCl and extracted with ether. The solvent was removed under vacuum and the residue heated at 60° C. in a 1:1 mixture of 3M aqueous HCl and tetrahydrofuran for 6 h. The mixture was cooled and extracted with ether. The extracts were washed with water, saturated aqueous NaCl, and dried (MgSO4). The solvent was removed under vacuum to give an oil, which slowly crystallised. The solid was recrystallised (ether/petroleum ether 40°-60° C.) to give the title compound (126 mg, 71%), m.p. 57°-59° C.

reactant | NaOH | 1.43 mmol, 1M, 1.43 ml | [OH-].[Na+]
reactant | 3-(carbomethoxymethyl)-5-[6-(2,4-dichlorophenyl)hexyl]tetrahydrofuran-2-one | 478 mmol, 185 mg | C(=O)(OC)CC1C(OC(C1)CCCCCCC1=C(C=C(C=C1)Cl)Cl)=O | C19H24Cl2O4
reactant | HCl | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | (3R*,5R*) 3-(Carboxymethyl)-5-[6-(2,4-dichlorophenyl)hexyl]tetrahydrofuran-2-one | 126 mg, 71% | C(=O)(O)C[C@@H]1C(O[C@@H](C1)CCCCCCC1=C(C=C(C=C1)Cl)Cl)=O | C18H22Cl2O4
